US08003811B2
Step A: (3R,3aR,6R,6aR)-6-(hex-5-enyloxy)hexahydrofuro[3,2-b]furan-3-ol
To a solution of 1,4:3,6-dianhydro-D-mannitol (4.00 g, 27.4 mmol) and Cs2CO3 (20.0 g, 60.2 mmol) in DMF (60 ml), 6-bromo-1-hexene (5.5 ml, 41.1 mmol), was added; the mixture was stirred at room temperature for 18 hrs. Then it was diluted with EtOAc and washed with a 5% solution of sodium dihydrogen phosphate (2×40 ml) and water (2×40 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and purified by flash chromatography (Biotage SP1, EtOAc/n-hexane from 20 to 80%), affording the title compound.

reactant | 1,4:3,6-dianhydro-D-mannitol | 27.4 mmol, 4.00 g | C1[C@H]([C@@H]2[C@H](O1)[C@@H](CO2)O)O | C6H10O4
reactant | Cs2CO3 | 60.2 mmol, 20.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-bromo-1-hexene | 41.1 mmol, 5.5 ml | BrCCCCC=C | C6H11Br
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3R,3aR,6R,6aR)-6-(hex-5-enyloxy)hexahydrofuro[3,2-b]furan-3-ol | C(CCCC=C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C12H20O4
